US04200641
A mixture of 15 parts of 4-(diphenylmethyl)-N-[2-nitro-4-(trifluoromethyl)phenyl]-1-piperazinepropanamine in 240 parts of methanol is hydrogenated at normal pressure and at room temperature with 2 parts of Raney-nickel catalyst. After the calculated amount of hydrogen is taken up, the catalyst is filtered off and the filtrate is evaporated, yielding N1 -{3-[4-(diphenylmethyl)-1-piperazinyl]propyl}-4-(trifluoromethyl)-1,2-benzenediamine.

reactant | 4-(diphenylmethyl)-N-[2-nitro-4-(trifluoromethyl)phenyl]-1-piperazinepropanamine | C1(=CC=CC=C1)C(N1CCN(CC1)CCCNC1=C(C=C(C=C1)C(F)(F)F)[N+](=O)[O-])C1=CC=CC=C1 | C27H29F3N4O2
reactant | hydrogen | [H][H] | H2
catalyst | Raney-nickel | [Ni] | Ni
solvent | methanol | CO | CH4O
product | N1 -{3-[4-(diphenylmethyl)-1-piperazinyl]propyl}-4-(trifluoromethyl)-1,2-benzenediamine | C1(=CC=CC=C1)C(N1CCN(CC1)CCCNC=1C(=CC(=CC1)C(F)(F)F)N)C1=CC=CC=C1 | C27H31F3N4
